US06265434B1
Step A: ((1-Benzyl)piperidin-4-ylidene)acetic acid, t-butyl ester
To a solution of 1.68 g of t-butyl diethylphosphonoacetate in 5 mL of THF was added 400 mg of sodium hydride (60% dispersion in mineral oil) at 0° C. The reaction was warmed to rt and stirred at rt for 20 min. To the resulting solution was added a solution of 1.05 g of 1-benzyl-4-piperidone in 5 mL of THF. The solution was refluxed for 3 h and cooled to rt. After quenching with aqueous NH4Cl, the aqueous phase was extracted with EtOAc (3×). The combined organic phases were dried over MgSO4 and concentrated to give 1.05 g of the title compound as a oil, which was used for the next step without further purification.

reactant | t-butyl diethylphosphonoacetate | 1.68 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | 1-benzyl-4-piperidone | 1.05 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ((1-Benzyl)piperidin-4-ylidene)acetic acid, t-butyl ester | 1.05 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC(=O)OC(C)(C)C | C18H25NO2
